US05670531
4.83 g (61.53 mmol) of acetyl chloride are added to 8.88 g (53.49 mmol) of (RS)-2-hydroxy-3-phenyl propanoic acid. The mixture is refluxed for 30 minutes. The excess acetyl chloride is evaporated. 11.18 g of (RS)-2-acetyloxy-3-phenyl propanoic acid are obtained.

reactant | acetyl chloride | 61.53 mmol, 4.83 g | C(C)(=O)Cl | C2H3ClO
reactant | (RS)-2-hydroxy-3-phenyl propanoic acid | 53.49 mmol, 8.88 g | OC(C(=O)O)CC1=CC=CC=C1 | C9H10O3
product | (RS)-2-acetyloxy-3-phenyl propanoic acid | 11.18 g, Yield=98% | C(C)(=O)OC(C(=O)O)CC1=CC=CC=C1 | C11H12O4
